US06388084B1
A solution of 4-(5-bromo-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride (120 mg, 0.30 mmol), 2-bromo-5-methoxybenzoic acid (82 mg, 0.36 mmol), DIEA (260 μL, 1.5 mmol) and HBTU (157 mg, 0.41 mmol) in DMF (4 mL) was stirred at room temperature for 18 hr. The mixture was concentrated, the residue was dissolved in ethyl acetate (15 mL), was washed with 0.5 N HCl (1×5 mL), sat. NaHCO3 (1×5 mL), brine (1×5 mL) and was dried (MgSO4). The residue obtained upon evaporation (180 mg) was chromatographed on 25 g of silica gel, eluting with 3:1 ethyl acetate:hexane to give N-[(2-bromo-5-methoxyphenyl)carbonyl]-4-(5-bromo-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester (130 mg, 76%). HRMS: Obs. Mass 576.9959. Calcd. Mass 576.9973 (M+H)

reactant | 4-(5-bromo-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride | 0.30 mmol, 120 mg | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Br)C)=O)=O
reactant | 2-bromo-5-methoxybenzoic acid | 0.36 mmol, 82 mg | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | DIEA | 1.5 mmol, 260 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 0.41 mmol, 157 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-[(2-bromo-5-methoxyphenyl)carbonyl]-4-(5-bromo-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester | 130 mg, 76% | COC([C@@H](NC(=O)C1=C(C=CC(=C1)OC)Br)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Br)C)=O)=O | C24H22Br2N2O5
